US05945504
A solution of 170.3 g of 1,4-bis(mercaptomethyl)-benzene and 185.1 g of epichlorohydrin was cooled to 10° C., and 40 ml of methanol and an aqueous solution obtained by dissolving 0.4 g of an aqueous sodium hydroxide solution in 4 ml of water were added to the cooled solution, followed by stirring at this temperature for 1 hour. Afterward, an aqueous solution obtained by dissolving 80.0 g of sodium hydroxide in 80 ml of water was added thereto, while a solution temperature was maintained at about 0 to 10° C., followed by stirring for 3 hours at this temperature. Next, 200 ml of water was added to the reaction mixture, and extraction was carried out with 300 ml of toluene. The resulting toluene layer was dried over sodium sulfate, and the used solvent was distilled off to obtain 275.8 g (97% of a theoretical amount) of 1,4-bis(glycidylthiomethyl)benzene in the state of a colorless transparent liquid.

reactant | 1,4-bis(mercaptomethyl)-benzene | 170.3 g | SCC1=CC=C(C=C1)CS | C8H10S2
reactant | epichlorohydrin | 185.1 g | C(Cl)C1CO1 | C3H5ClO
reactant | methanol | 40 ml | CO | CH4O
reactant | sodium hydroxide | 0.4 g | [OH-].[Na+]
reactant | sodium hydroxide | 80.0 g | [OH-].[Na+]
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 4 ml | O | H2O
solvent | water | 80 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | 1,4-bis(glycidylthiomethyl)benzene | C(C1CO1)SCC1=CC=C(C=C1)CSCC1CO1 | C14H18O2S2
